US04873237
2,3-Dihydro-5-methyl-2-(2-pyridyl)thiazolo[3,2-a]benzimidazole-1-oxide
In a similar manner to Example 4 2,3-dihydro-5-methyl-2-(2-pyridyl)thiazolo[3,2-a]-benzimidazole (1.07 g) was reacted with m-chloroperoxybenzoic acid to give the title compound (0.74 g, 70%) mp 148.5° C.

reactant | 2,3-dihydro-5-methyl-2-(2-pyridyl)thiazolo[3,2-a]-benzimidazole | 1.07 g | CC1=CC=CC2=C1N1C(=N2)SC(C1)C1=NC=CC=C1 | C15H13N3S
reactant | m-chloroperoxybenzoic acid | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
product | 2,3-Dihydro-5-methyl-2-(2-pyridyl)thiazolo[3,2-a]benzimidazole-1-oxide | 0.74 g, 70% | CC1=CC=CC2=C1N1C(=N2)S(C(C1)C1=NC=CC=C1)=O | C15H13N3OS
